US07550498B2
Dimethyl-[3-(2H-8-thia-1,2-diaza-dibenzo[e,h]azulene-3-ylmethoxy)-propyl]-amine (IB, X═S, Y=Z=H, R1═(CH3)2N(CH2)3OCH2, R2═H)
By the reaction of alcohol 19B (0.15 mmole) and 3-dimethylaminopropylchloride-hydrochloride (1.8 mmole), dimethyl-{3-[2-(2-trimethylsilyl-ethoxymethyl)-2H-8-thia-1,2-diaza-dibenzo[e,h]azulene-3-ylmethoxy]-propyl}-amine in the form of an oily product was obtained.

reactant | 3-dimethylaminopropylchloride-hydrochloride | 1.8 mmole | Cl.CN(CCCCl)C
reactant | dimethyl-{3-[2-(2-trimethylsilyl-ethoxymethyl)-2H-8-thia-1,2-diaza-dibenzo[e,h]azulene-3-ylmethoxy]-propyl}-amine | CN(CCCOCC=1N(N=C2C3=C(SC4=C(C12)C=CC=C4)C=CC=C3)COCC[Si](C)(C)C)C | C27H37N3O2SSi
product | Dimethyl-[3-(2H-8-thia-1,2-diaza-dibenzo[e,h]azulene-3-ylmethoxy)-propyl]-amine | CN(CCCOCC=1NN=C2C3=C(SC4=C(C12)C=CC=C4)C=CC=C3)C | C21H23N3OS
